Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.83349244114
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.37442096901
[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.94713659318
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],2.98188925806
[H:1][O:2]/[C:3]([H:4])=[C:9](/[C:6]([O:5])([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[C:10]([H:11])([H:12])[H:13],-0.112891594579
[H:1][O:2][C:3]([H:4])[O:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11],1.49830652613
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:12][C:9]([C:7][H:8])([H:10])[H:11],5.21908804313
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.29934371148
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:8]([H:9])[O:10][H:11].[H:7],3.94778616226
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2],6.5089514067
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.56286708554
[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3][C:9]([H:10])([H:11])[H:12],5.8616639057
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1],4.2452325013
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],3.66686102105
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5],0.0160071098508
[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5].[O:6][H:7],6.295301021830001
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13],4.48751099484
[H:1][C:2]#[C:3][O:4][C:5].[O:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9],-1.41304698332
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:8][H:9].[C:7]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7])[O:8][H:9],-3.90383597635
[C:1]#[C:2][C:3](=[O:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2].[C:3](=[O:4])[O:5][C:6]([H:7])([H:8])[H:9],5.08589296235
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7].[O:8][H:9],6.08146475544
[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-5.243998482149999
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.16643455059
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8].[H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-5.548794168940001
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.62883807712
[C:2]=[C:3]([C:4]([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.69267079635
[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.888060477697
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3],3.37366693788
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[O:9][H:10].[O:4][H:5],3.06783898297
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7],5.3160228498
